US06710055B2
a) 3-[(N-tert-Butoxycarbonylamino)acetylamino]-4-methylaminobenzoic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)amide
19.2 g (0.11 mol) of N-tert-butyloxycarbonylglycine were dissolved in 175 mL of dimethylformamide, mixed with 35.2 g (0.11 mol) of O-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate, 11.0 g of triethylamine, and 34.2 g (0.10 mol) of 3-amino-4-methylaminobenzoic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)amide and stirred for 2.5 hours at ambient temperature. Then the reaction solution was mixed with 5 l of ice water and stirred for 2 hours. The grey precipitate formed was filtered off, washed with water, dried, and recrystallized from ethyl acetate with the addition of activated charcoal. Yield: 39.85 g (80% of theory), C25H33N5O6 (499.6); Rf value: 0.55 (silica gel; methylene chloride/ethanol=19:1).

reactant | N-tert-butyloxycarbonylglycine | 0.11 mol, 19.2 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | N,N,N′,N′-tetramethyluronium tetrafluoroborate | F[B-](F)(F)F.C[N+](=C(O)N(C)C)C
reactant | triethylamine | 11.0 g | C(C)N(CC)CC | C6H15N
reactant | 3-amino-4-methylaminobenzoic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)amide | 0.10 mol, 34.2 g | N1=C(C=CC=C1)N(C(C1=CC(=C(C=C1)NC)N)=O)CCC(=O)OCC | C18H22N4O3
solvent | dimethylformamide | 175 mL | CN(C=O)C | C3H7NO
product | 3-[(N-tert-Butoxycarbonylamino)acetylamino]-4-methylaminobenzoic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)amide | N1=C(C=CC=C1)N(C(C1=CC(=C(C=C1)NC)NC(CNC(=O)OC(C)(C)C)=O)=O)CCC(=O)OCC | C25H33N5O6
